US06159971
(R)-2-Amino-8-bromo-5-methoxy-1,2,3,4-tetrahydronaphthalene Hydrochloride
(R)-2-Amino-5-methoxy-1,2,3,4-tetrahydronaphthalene hydrochloride (5.0 g, 23 mmol) was dissolved in acetic acid (300 mL) under nitrogen atmosphere. Sodium acetate (5.5 g, 70 mmol) was added and bromine (3.5 g, 23 mmol) was then added in one portion. The mixture was stirred for 5 minutes at room temperature. The solvent was removed in vacuo to give a solid residue which was partitioned between ethyl acetate and NaOH (2 M). The layers were separated and the aqueous phase was extracted twice with ethyl acetate. The organic layers were combined and dried (Na2SO4). The solvent was removed in vacuo to give a brown oily residue. The HCl salt was precipitated from diethyl ether/methylene chloride by the addition of HCl in diethyl ether (3 M): yield 7.7 g (94%). Recrystallization from methanol gave the title compound as needle crystals: mp 264-265° C.; [α]21D +54° (c 1, MeOH); EIMS (70 eV) m/z (relative intensity) 257 (30, M+, 81Br), 255 (31, M+, 79Br).

reactant | (R)-2-Amino-5-methoxy-1,2,3,4-tetrahydronaphthalene hydrochloride | 23 mmol, 5.0 g | Cl.N[C@H]1CC2=CC=CC(=C2CC1)OC
reactant | Sodium acetate | 70 mmol, 5.5 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 23 mmol, 3.5 g | BrBr | Br2
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
product | (R)-2-Amino-8-bromo-5-methoxy-1,2,3,4-tetrahydronaphthalene Hydrochloride | Cl.N[C@H]1CC2=C(C=CC(=C2CC1)OC)Br | InChI=1S/C11H14BrNO.ClH/c1-14-11-5-4-10(12)9-6-7(13)2-3-8(9)11;/h4-5,7H,2-3,6,13H2,1H3;1H/t7-;/m1./s1
